US06114568
To a suspension of sodium hydride (6.56 grams. 0.164 mole) in ethylene glycol dimethyl ether (150 mL) at 0° C. is added a solution of the N-(diphenylmethylene)glycine benzyl ester (0.07398 mole) in ethylene glycol dimethyl ether (50 mL) dropwise via addition funnel. A solution of 2-bromoethyl ether (23.21 grams, 0.090 mole) in ethylene glycol dimethyl ether (50 mL) is then added, in 10 mL portions over approximately 5 minutes, to the ethylene glycol dimethyl ether solution. The ice bath is removed and the reaction is stirred at room temperature for 16 hours. The mixture is diluted with diethyl ether and washed with water. The aqueous layer is extracted with diethyl ether. The combined organic extracts are washed with brine, dried over magnesium sulfate, and concentrated to afford crude product. Chromatography on silica gel eluting first with 4 L of 5% ethyl acetate/hexane followed by 4 liters of 10% ethyl acetate/hexane provides 4-[N-(diphenylmethylene)amino]tetrahydropyran-4-carboxylic acid benzyl ester as a clear yellow oil.

reactant | sodium hydride | 0.164 mole, 6.56 grams | [H-].[Na+]
reactant | N-(diphenylmethylene)glycine benzyl ester | 0.07398 mole | C(C1=CC=CC=C1)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H19NO2
reactant | 2-bromoethyl ether | 0.090 mole, 23.21 grams | BrCCOCCBr | C4H8Br2O
reactant | ethyl acetate hexane | 4 L | C(C)(=O)OCC.CCCCCC
reactant | ethyl acetate hexane | 4 liters | C(C)(=O)OCC.CCCCCC
solvent | ethylene glycol dimethyl ether | 150 mL | COCCOC | C4H10O2
solvent | ethylene glycol dimethyl ether | 50 mL | COCCOC | C4H10O2
solvent | ethylene glycol dimethyl ether | 50 mL | COCCOC | C4H10O2
product | 4-[N-(diphenylmethylene)amino]tetrahydropyran-4-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1(CCOCC1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C26H25NO3
